US05831114
1-(3-Chlorophenoxy)-2-Butanol (Intermediate)
is obtained analogously to Example H1 by using 51.4 g of 3-chlorophenol, 28.8 g of α-butylene oxide and 1.0 g of lithium hydroxide monohydrate in a yield of 71.4 g in the form of an oil; b.p. 83°-84° C./0.04 torr.

reactant | 3-chlorophenol | 51.4 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | α-butylene oxide | 28.8 g | CCC1CO1 | C4H8O
reactant | lithium hydroxide monohydrate | 1.0 g | O.[OH-].[Li+]
product | 1-(3-Chlorophenoxy)-2-Butanol | ClC=1C=C(OCC(CC)O)C=CC1 | C10H13ClO2
